US09023883B2
A mixture of 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde (21.5 g, 70.24 mmol, 1.00 equiv), tert-butyl N-methyl-N-(2-(methylamino)ethyl)carbamate (20 g, 106.23 mmol, 1.51 equiv) and NaBH(OAc)3 (29.8 g, 137.98 mmol, 1.96 equiv) in dichloroethane (300 mL) was stirred for 1 h at room temperature. The reaction was diluted with 300 mL of dichloromethane and then washed with 3×300 mL of brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with 0-7% methanol in dichloromethane to give 31 g (92%) of tert-butyl (2-(((3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate as a yellow oil. 1H NMR (300 MHz, CDCl3): δ 7.62 (s, 1H), 5.34-5.30 (m, 1H), 4.06-4.02 (m, 1H), 3.68-3.62 (m, 1H), 3.42-3.38 (m, 4H), 2.85 (s, 4H), 2.62-2.53 (m, 2H), 2.47-2.46 (m, 2H), 2.13-1.97 (m, 3H), 1.74-1.69 (m, 3H), 1.46 (s, 9H) ppm. LCMS (method A, ESI): RT=1.17 min, m/z=479.0 [M+H]+.

reactant | 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde | 70.24 mmol, 21.5 g, 1.00 equiv | IC1=NN(C=C1C=O)C1OCCCC1 | C9H11IN2O2
reactant | tert-butyl N-methyl-N-(2-(methylamino)ethyl)carbamate | 106.23 mmol, 20 g, 1.51 equiv | CN(C(OC(C)(C)C)=O)CCNC | C9H20N2O2
reactant | NaBH(OAc)3 | 137.98 mmol, 29.8 g, 1.96 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 300 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | tert-butyl (2-(((3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate | 31 g, 92% | IC1=NN(C=C1CN(CCN(C(OC(C)(C)C)=O)C)C)C1OCCCC1 | C18H31IN4O3
